US03932429
A mixture of 7.21 g of 1-(3-methoxyphenyl)-6-benzyl-7-methyl-6-azabicyclo[3,2,1]octane, 2.2 g of colloid palladium and 165 ml of acetic acid is shaken at room temperature for 2 hours in a hydrogen atmosphere under atmospheric pressure. After the reaction is completed, the mixture is filtered to remove the catalyst. The filtrate is then evaporated to remove solvent. Water is added to the residue, and the aqueous mixture is made alkaline with ammonia. Then, the aqueous mixture is extracted with ether. The ether extract is dried and evaporated to remove solvent. 4.94 g of 1-(3-methoxyphenyl)-7-methyl-6-azabicyclo[3,2,1]octane are obtained. Hydrochloride: M.p. 174°-176°C(recrystallized from a mixture of acetone, ethanol and ether).

reactant | 1-(3-methoxyphenyl)-6-benzyl-7-methyl-6-azabicyclo[3,2,1]octane | 7.21 g | COC=1C=C(C=CC1)C12CCCC(N(C1C)CC1=CC=CC=C1)C2 | C22H27NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 2.2 g | [Pd] | Pd
solvent | acetic acid | 165 ml | C(C)(=O)O | C2H4O2
product | 1-(3-methoxyphenyl)-7-methyl-6-azabicyclo[3,2,1]octane | 4.94 g | COC=1C=C(C=CC1)C12CCCC(NC1C)C2 | C15H21NO
